US08242111B2
(S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-((S)-piperidin-3-yl)-1,3-oxazinan-2-one
(S)-tert-butyl 3-((S)-6-(2-hydroxy-2-methylpropyl)-2-oxo-6-phenyl-1,3-oxazinan-3-yl)piperidine-1-carboxylate (25 mg, 0.058 mmol) was dissolved in 20% TFA/CH2Cl2 (8 mL) solution and stirred 30 min at rt. The mixture was concentrated, redissolved in CH2Cl2 (25 mL), washed with satd aq NaHCO3 solution (10 mL), brine (8 mL), dried over Na2SO4. After filtration and concentration, the crude (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-((S)-piperidin-3-yl)-1,3-oxazinan-2-one as its TFA salt which was used without further purification. LC-MS Method 1 tR=0.86 min., m/z 333 (M+1).

reactant | (S)-tert-butyl 3-((S)-6-(2-hydroxy-2-methylpropyl)-2-oxo-6-phenyl-1,3-oxazinan-3-yl)piperidine-1-carboxylate | 0.058 mmol, 25 mg | OC(C[C@@]1(CCN(C(O1)=O)[C@@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)(C)C | C24H36N2O5
solvent | TFA CH2Cl2 | 8 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-((S)-piperidin-3-yl)-1,3-oxazinan-2-one | OC(C[C@@]1(CCN(C(O1)=O)[C@@H]1CNCCC1)C1=CC=CC=C1)(C)C | C19H28N2O3
